US09029395B2
To a solution of 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinic acid (for a preparation see Intermediate 7) (100 mg, 0.234 mmol) in DMF (5 mL) were added 3-(dimethylamino)-1-propanol (121 mg, 1.170 mmol), EDC (90 mg, 0.468 mmol) and DMAP (2.86 mg, 0.023 mmol). The resulting mixture was stirred at room temperature overnight, the reaction mixture was concentrated in vacuo, dissolved in a 1:1 MeOH/DMSO mixture and purified by MDAP (HpH). The appropriate fractions were combined and concentrated under reduced pressure to give 3-(dimethylamino)propyl 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate (23 mg, 19%) as a colourless oil. LCMS (Formate, 2 min), Rt=0.70 min, MH+=513.

reactant | 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinic acid | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)O)C=C1)NC1=NC=C(C=C1)C#N)C | C24H21N5O3
reactant | 3-(dimethylamino)-1-propanol | 1.170 mmol, 121 mg | CN(CCCO)C | C5H13NO
reactant | EDC | 0.468 mmol, 90 mg
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.023 mmol, 2.86 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(dimethylamino)propyl 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate | 23 mg, 19% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)OCCCN(C)C)C=C1)NC1=NC=C(C=C1)C#N)C | C29H32N6O3
